US06951879B2
In analogy to example 12.1, 3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-ol and trifluoromethane sulfonic anhydride were converted to yield Trifluoro-methanesulfonic acid 3-(4-fluoro-phenyl)-benzo[b]thiophene-6-yl ester as brown oil, MS: 376 (M).

reactant | 3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-ol | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)O | C14H9FOS
reactant | trifluoromethane sulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Trifluoro-methanesulfonic acid 3-(4-fluoro-phenyl)-benzo[b]thiophene-6-yl ester | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OS(=O)(=O)C(F)(F)F | C15H8F4O3S2
